US06165941
3-Chloro-3-[3-(2-chloroacetylamino)-4-hydroxyphenyl]-5-trifluoromethylpyridine
3.8 g (33.3 mmol) of chloroacetyl chloride were added dropwise at 0° C. to a mixture of 7.4 g (25.6 mmol) of 3-chloro-2-(3-amino-4-hydroxyphenyl)-5-trifluoromethylpyridine and 2.1 g (15.4 mmol) of potassium carbonate in 100 ml of anhydrous dimethylformamide. After stirring at 90° C. for three hours, the reaction mixture was allowed to cool and then poured into 500 ml of water. The solid portion was filtered off with suction, washed with water and dried under reduced pressure. Yield: 7.3 g (87%) of colorless crystals of m.p.: 205° C.

reactant | chloroacetyl chloride | 33.3 mmol, 3.8 g | ClCC(=O)Cl | C2H2Cl2O
reactant | 3-chloro-2-(3-amino-4-hydroxyphenyl)-5-trifluoromethylpyridine | 25.6 mmol, 7.4 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)O)N | C12H8ClF3N2O
reactant | potassium carbonate | 15.4 mmol, 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 500 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3-Chloro-3-[3-(2-chloroacetylamino)-4-hydroxyphenyl]-5-trifluoromethylpyridine | ClC1(CN=CC(=C1)C(F)(F)F)C1=CC(=C(C=C1)O)NC(CCl)=O | C14H11Cl2F3N2O2
